US08242153B2
To a stirred solution of (R)-MeCBS oxazaborolidine (2.9 ml, 1M solution in toluene) in dry tetrahydrofuran (5 ml) was added dropwise borane-THF complex (17.4 ml, 1M solution in tetrahydrofuran) under an argon atmosphere. The solution was cooled to 0° C. and 3′-chloro-5′-fluoroacetophenone (5.0 g) dissolved in dry tetrahydrofuran (5 ml) was added dropwise to the reaction mixture in 40 min. The reaction mixture was stirred for 1 h at 0° C. and was slowly quenched with methanol (5 ml) followed by addition of HCl 4M in ethanol (1 ml). After stirring the mixture for 5 min at 0° C., the cooling bath was removed and the white suspension was stirred at room temperature for 30 min. The suspension was filtered over celite and the filtrate was evaporated over silica gel for purification. Column chromatography (SiO2; heptane/EtOAc) afforded (S)-1-(3-chloro-5-fluoro-phenyl)-ethanol (4.50 g, 89%) as a colourless liquid.

reactant | oxazaborolidine | 1M, 2.9 ml | O1NBCC1 | C2H6BNO
reactant | borane THF | 1M, 17.4 ml | B.C1CCOC1
reactant | 3′-chloro-5′-fluoroacetophenone | 5.0 g | ClC=1C=C(C=C(C1)F)C(C)=O | C8H6ClFO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (S)-1-(3-chloro-5-fluoro-phenyl)-ethanol | 4.50 g, 89% | ClC=1C=C(C=C(C1)F)[C@H](C)O | C8H8ClFO
